* C:\Users\Fortyfour\Desktop\SNN_for_Ninapro\neurophic_system_model\16_channels_input_sample\ltspice_work\System_with_TIA.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 N001 Vout 0 NbOx_OSC VH=1.676 VL=1.127 Rin=89213.44 Rme=806 Rload=10k Cparal=1u ;§pnba VIN)OUTPUT)GND
Vin N001 0 PWL file=6-0114-2.3V-1uF-10kohm-2-imtegrate-Vd1V.pwl
X§Synapse Vout N002 SYN_S SYNAPSE_ADV_V2 ;§pnba G)D)S
VD N002 0 1v
X§U2 VDRIVE final_out 0 NbOx_OSC VH=1.676 VL=1.127 Rin=89213.44 Rme=806 Rload=10k Cparal=1u ;§pnba VIN)OUTPUT)GND
X§U_TIA 0 SYN_S VCC VEE VTIA level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
VCC VCC 0 5V
VEE VEE 0 -5V
Rf1 VTIA SYN_S 2.5k
Cf1 VTIA SYN_S 10n
V_REF VREF 0 0.75V
X§U_SHIFT VREF SHIFT_N VCC VEE VDRIVE level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
Rf2 VDRIVE SHIFT_N 10k
Rin2 SHIFT_N VTIA 10k
.include "NbOx_OSC_stable.lib"
.tran 0 1.1 0 20u uic
.options plotwinsize=0
* 虚地，约为0V
* TIA供电
* VTIA = - Tsyn * Rf1
* Vdrive = Voffset + Isyn*Rf1
* Library below included based on ModelFile attribute of instance X§Synapse (C:\Users\Fortyfour\Desktop\SNN_for_Ninapro\neurophic_system_model\16_channels_input_sample\ltspice_work\SYNAPSE_ADV_V2.asy)
.lib synapse_advanced_v2.sub
* Library below included based on ModelFile attribute of instance X§U_TIA, X§U_SHIFT (C:\Users\Fortyfour\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
